US07968585B2
8-(tert-Butyl-diphenyl-silanyloxy)-2-aza-spiro[4.5]decan-1-one
Treat a 0° C. mixture of 4-(tert-butyl-diphenyl-silanyloxy)-1-cyanomethyl-cyclohexanecarboxylic acid ethyl ester (7.19 g, 15.9 mmol), cobalt (II) chloride hexahydrate (1.90 g, 7.98 mmol) in THF (130 mL), and water (65 mL) portion-wise with sodium borohydride (3.02 g, 7.98 mmol). Warm to room temperature and stir for 16 hours under N2. Heat the reaction to 50° C. for 8 hours, cool to room temperature and stir 16 hours under N2. Treat the reaction with 28% ammonium hydroxide (2 mL) and filter through hyflo. Remove the solvent from the filtrate in vacuo and dilute the residue with minimal water and brine and extract three times with 3:1 chloroform:isopropanol. Dry the organic layer with Na2SO4 and remove the solvent in vacuo to afford crude product. Purify with a 0 to 10% methanol in CH2Cl2 gradient on silica gel to afford 1.20 g (18%) of the titled product. Rf=0.48 and 0.61 (9/1 CH2Cl2/methanol). MS (m/z): 408 (M+).

reactant | 4-(tert-butyl-diphenyl-silanyloxy)-1-cyanomethyl-cyclohexanecarboxylic acid ethyl ester | 15.9 mmol, 7.19 g | C(C)OC(=O)C1(CCC(CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC#N | C27H35NO3Si
reactant | water | 65 mL | O | H2O
reactant | sodium borohydride | 7.98 mmol, 3.02 g | [BH4-].[Na+]
reactant | ammonium hydroxide | 2 mL | [OH-].[NH4+]
solvent | THF | 130 mL | C1CCOC1 | C4H8O
catalyst | cobalt (II) chloride hexahydrate | 7.98 mmol, 1.90 g | O.O.O.O.O.O.[Co](Cl)Cl
product | 8-(tert-Butyl-diphenyl-silanyloxy)-2-aza-spiro[4.5]decan-1-one | 1.20 g, 18% | C(C)(C)(C)[Si](OC1CCC2(CCNC2=O)CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H33NO2Si
